US07378415B2
To a solution of 2-amino-5-benzenesulfonyl-phenol (1.06 g., 4.26 mmol) in 8 mL ethyl acetate was added pyridine (0.345 mL, 4.26 mmol). The solution was cooled to 0° C. and 2-bromo-2-methyl-propionyl chloride (0.553 mL, 4.47 mmol) was added dropwise and stirring was continuted for 2 hours. The reaction mixture was diluted with 50 mL ethyl acetate and washed with 50 mL 10% aqueous hydrogen chloride, 50 mL saturated aqueous sodium bicarbonate, 50 mL water, then 50 mL brine. The organic phase was dried over sodium sulfate and concentrated in vacuo to yield 5-benzenesulfonyl-2-(2-bromo-2-methyl-propylamino)-phenol as a crude oil, which was used directly in the following step.

reactant | 2-amino-5-benzenesulfonyl-phenol | 4.26 mmol, 1.06 g | NC1=C(C=C(C=C1)S(=O)(=O)C1=CC=CC=C1)O | C12H11NO3S
reactant | pyridine | 4.26 mmol, 0.345 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-bromo-2-methyl-propionyl chloride | 4.47 mmol, 0.553 mL | BrC(C(=O)Cl)(C)C | C4H6BrClO
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-benzenesulfonyl-2-(2-bromo-2-methyl-propylamino)-phenol | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C1)O)NCC(C)(C)Br | C16H18BrNO3S
